US07291643B2
2-(4-Bromophenyl)isothiazolidine 1,1-dioxide (0.56 g, 2.0 mmol), 1-methyl-5-cyano-2-pyrroleboronic acid (0.36 g, 2.4 mmol), KF (0.38 g, 6.6 mmol), and Pd2(dba)3 (48 mg, 0.05 mmol) were added to a 50 mL round bottom flask under nitrogen. The flask was sealed and purged with nitrogen for 5 minutes. THF (5 mL) was added and the mixture was purged with nitrogen. A solution of tri-t-butylphosphine (10% wt in hexanes) (0.3 mL, 0.1 mmol) was added via syringe and the mixture was stirred vigorously at 25° C. for 16 hours. The mixture was diluted with EtOAc, filtered through a plug of silica gel, washed with 200 mL of EtOAc and concentrated to give a crude brown/black semi-solid. Purification via Isco chromatography (the Redisep® column, silica, gradient 5%-100% ethyl acetate in hexane) afforded 5-[4-(1,1-dioxidoisothiazolidin-2-yl)phenyl]-1-methyl-1H-pyrrole-2-carbonitrile as a white solid (54 mg).

reactant | 2-(4-Bromophenyl)isothiazolidine 1,1-dioxide | 2.0 mmol, 0.56 g | BrC1=CC=C(C=C1)N1S(CCC1)(=O)=O | C9H10BrNO2S
reactant | 1-methyl-5-cyano-2-pyrroleboronic acid | 2.4 mmol, 0.36 g | CN1C(=CC=C1C#N)B(O)O | C6H7BN2O2
reactant | KF | 6.6 mmol, 0.38 g | [F-].[K+]
catalyst | Pd2(dba)3 | 0.05 mmol, 48 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-[4-(1,1-dioxidoisothiazolidin-2-yl)phenyl]-1-methyl-1H-pyrrole-2-carbonitrile | 54 mg | O=S1(N(CCC1)C1=CC=C(C=C1)C1=CC=C(N1C)C#N)=O | C15H15N3O2S
